US05998666
N-cycloheptyl-5-[benzyl{2-(3-(aminocarbonylamino)phenoxy)ethyl}amino]pentanamide (V, Ar=3-(aminocarbonyl amino)phenyl, R=cycloheptyl)
Potassium carbonate (0.92 g, 6.6 mmole) is added to a solution of 3-hydroxyphenylurea (1 g, 6.6 mmole) in dimethylformamide (20 ml) and said mixture is stirred for 10 minutes at 20° C. A solution of N-cycloheptyl-5-[benzyl-(2-chloroethyl)amino]pentanamide (2.21 g, 6 mmole) in dimethylformamide (20 ml) is then added dropwise, the mixture being kept under agitation for 4 hours at 80° C. The solvent is evaporated under reduced pressure, then the residue is taken up in dichloromethane (50 ml) and washed with water. The organic phase is collected and dried then, after evaporation of the solvent, the desired compound is obtained in the form of an oil. It is purified by flash chromatography over silica gel in a mixture of dichloromethane/methanol (95/5) to give 1.75 g (60%) of pure compound. NMR-1H (CDCl3),;1.30-1.90 (m, 16H), 2.12 (t, 2H, J=6 Hz), 2.53 (t, 2H, J=6 Hz), 2.80 (t, 2H, J=6 Hz), 3.63 (s, 2H), 3.95 (m, 1H), 4.07 (t, 2H, J=6 Hz), 4.93 (s, 1H), 5.55 (m, 1H), 6.68 (m, 2H), 7.19 -7.30 (m, 9H).

reactant | Potassium carbonate | 6.6 mmole, 0.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxyphenylurea | 6.6 mmole, 1 g | OC=1C=C(C=CC1)NC(=O)N | C7H8N2O2
reactant | N-cycloheptyl-5-[benzyl-(2-chloroethyl)amino]pentanamide | 6 mmole, 2.21 g | C1(CCCCCC1)NC(CCCCN(CCCl)CC1=CC=CC=C1)=O | C21H33ClN2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-cycloheptyl-5-[benzyl{2-(3-(aminocarbonylamino)phenoxy)ethyl}amino]pentanamide | C1(CCCCCC1)NC(CCCCN(CCOC1=CC(=CC=C1)NC(=O)N)CC1=CC=CC=C1)=O | C28H40N4O3
